US20010016207A1
C. 1-Amino-cyclohexanecarboxylic acid cyanomethyl-amide
FMOC-1-amino-cyclohexanecarboxylic acid cyanomethyl-amide (248 mmol) is dissolved in DMF (200 ml), piperidine (248 mmol) is added and the mixture is stirred at RT for 2 hours. The reaction mixture is poured into water (3000 ml) and stirred for 30 minutes. The suspension is filtered and the filtrate is acidified with HCl 4N and than extracted with ethyl acetate. NaOH 1N is added to make the water phase basic and the mixture is extracted three times with ethyl acetate. The organic fractions are dried over sodium sulfate and the solvent is evaporated. The residue is dried (vacuum) to yield a pale yellow oil. Rf=0.26 (CH2Cl2/MeOH=95:5).

reactant | FMOC-1-amino-cyclohexanecarboxylic acid cyanomethyl-amide | 248 mmol | C(#N)CNC(=O)C1(C(CCCC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)N | C24H25N3O3
reactant | piperidine | 248 mmol | N1CCCCC1 | C5H11N
reactant | water | 3000 ml | O | H2O
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-Amino-cyclohexanecarboxylic acid cyanomethyl-amide | C(#N)CNC(=O)C1(CCCCC1)N | C9H15N3O
